US04267190
B. 4-Dimethylhydrazono-1,2-diphenyl-2-buten-1-one
To a mixture of 19.6 g (0.1 mole) desoxybenzoin and 10 g (0.1 mole) of glyoxal mono(dimethylhydrazone) in 100 ml ethanol was added dropwise a solution of sodium ethoxide prepared by dissolving 2.3 g (0.1 mole) sodium metal in 100 ml ethanol. The mixture was heated at reflux for one-half hour. TLC (90/10, toluene/ethyl acetate) showed a small amount of starting desoxybenzoin, so 2.0 g (0.02 mole) of additional glyoxal mono(dimethylhydrazone) was added. Heating was continued another two hours. TLC at this time showed no starting material, and two clean close yellow product spots (isomers). The mixture was poured into 1 l ice water and then extracted with methylene chloride. The organic extracts were dried and concentrated on a rotary evaporator to give 28.7 g (100%) of yellow oil. The NMR showed the presence of two major N(CH3)2 containing materials (product isomers). The crude oil crystallized from isopropanol to give one pure isomer of product, 13.4 g (48%), pale yellow crystals, m.p. 131°-2°.

reactant | desoxybenzoin | 0.1 mole, 19.6 g | C1(=CC=CC=C1)C(=O)CC1=CC=CC=C1 | C14H12O
reactant | glyoxal mono(dimethylhydrazone) | 0.1 mole, 10 g | CN(N=CC=O)C | C4H8N2O
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.1 mole, 2.3 g | [Na] | Na
reactant | glyoxal mono(dimethylhydrazone) | 0.02 mole, 2.0 g | CN(N=CC=O)C | C4H8N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 4-Dimethylhydrazono-1,2-diphenyl-2-buten-1-one | 28.7 g, 100% | CN(N=CC=C(C(=O)C1=CC=CC=C1)C1=CC=CC=C1)C | C18H18N2O
